US07250417B2
A solution of 3,5-dibromo-pyrazin-2-ylamine (220 mg, 0.87 mmol) and 4-aminomethyl-phenol (225.0 mg, 1.83 mmol) in DMSO (2.5 mL) was heated at 98° C. under nitrogen for 24 hours. HPLC showed that 35% of product was formed and 40% of starting material presented. The reaction solution was partitioned between EtOAc and water. After condensation of organic layer, the residue was purified on a silica gel column eluting with 3% methanol in dichloromethane to provide 4-[(3-amino-6-bromo-pyrazin-2-ylamino)-methyl]-phenol (30 mg) as a yellow solid.

reactant | 3,5-dibromo-pyrazin-2-ylamine | 0.87 mmol, 220 mg | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | 4-aminomethyl-phenol | 1.83 mmol, 225.0 mg | NCC1=CC=C(C=C1)O | C7H9NO
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 4-[(3-amino-6-bromo-pyrazin-2-ylamino)-methyl]-phenol | 30 mg | NC=1C(=NC(=CN1)Br)NCC1=CC=C(C=C1)O | C11H11BrN4O
